US07196100B2
Preparation of 6-(3,3-Dimethyl-1,5-dioxa-spiro[5.5]undec-9-yloxy)-nicotinonitrile
Add dropwise a solution of 3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-9-ol, (1445 mg, 7.22 mmol) in DMF (2.1 mL) to a suspension of sodium hydride (433 mg, 10.82 mmol) in DMF (8.6 mL). Let the reaction mixture stir at room temperature for 1 h, then heat while stirring at 50° C. for 20 min. Add dropwise a solution of 6-chloro-nicotinonitrile (1200 mg, 8.66 mmol) in DMF (4.5 mL). Continue the heating at 60° C. and stirring overnight. Concentrate the reaction mixture to remove DMF. Wash the residue with water (15 mL) and extract with EtOAc/hexanes (20 mL). Dry the organic layer over sodium sulfate, filter and concentrate. Purify the residue by flash chromatography (eluent CH2Cl2/hexanes 2/1) to give 2000 mg (92% yield) of the title compound.

reactant | 3,3-dimethyl-1,5-dioxa-spiro[5.5]undecan-9-ol | 7.22 mmol, 1445 mg | CC1(COC2(OC1)CCC(CC2)O)C | C11H20O3
reactant | sodium hydride | 10.82 mmol, 433 mg | [H-].[Na+]
reactant | 6-chloro-nicotinonitrile | 8.66 mmol, 1200 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMF | 2.1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8.6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | 6-(3,3-Dimethyl-1,5-dioxa-spiro[5.5]undec-9-yloxy)-nicotinonitrile | 2000 mg, 92% yield | CC1(COC2(OC1)CCC(CC2)OC2=NC=C(C#N)C=C2)C | C17H22N2O3
